US05202344
Preparation of 1,1-Dimethylethyl 3-(phenylamino)propanoate
To a solution of aniline (27.9 g, 0.30 mol) and tert-butyl acrylate (38.4 g, 0.30 mol) in dry benzene (500 ml) was added tin tetrachloride (2 ml) and the resulting solution was heated under reflux for 18 h. The resulting suspension was filtered and the filtrate was concentrated in vacuo giving a residue which was chromatographed on silica gel eluting with 25/75 ethyl acetate/hexane to give the title compound (22.53 g, 34%) as an oil. 1H NMR (300 MHz, CDCl3) δ7.12 (2H, t), 6.71 (1H, m), 6.62 (2H, d), 3.40 (2H, t), 2 54 (2H, t), 1.44 (9H, s).

reactant | aniline | 0.30 mol, 27.9 g | NC1=CC=CC=C1 | C6H7N
reactant | tert-butyl acrylate | 0.30 mol, 38.4 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | tin tetrachloride | 2 ml | [Sn](Cl)(Cl)(Cl)Cl
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 1,1-Dimethylethyl 3-(phenylamino)propanoate | 22.53 g, 34% | C1(=CC=CC=C1)NCCC(=O)OC(C)(C)C | C13H19NO2
